US05780642
A suspension of 4-cyanophenylacetic acid (31.2 g, prepared as described in J.C.S. 744, (1941)), concentrated sulphuric acid (5 ml) and absolute ethanol (300 ml) was boiled under reflux with stirring for 48 hours. The solvent was removed under reduced pressure and dilute aqueous sodium hydroxide solution was added to neutralise the sulphuric acid. Dichloromethane was added. The mixture was filtered and extracted with further dichloromethane. The organic extracts were dried and evaporated to give ethyl 4-cyanophenylacetate, m.p. 94°-95° C.

reactant | 4-cyanophenylacetic acid | 31.2 g | C(#N)C1=CC=C(C=C1)CC(=O)O | C9H7NO2
reactant | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | ethyl 4-cyanophenylacetate | C(#N)C1=CC=C(C=C1)CC(=O)OCC | C11H11NO2
